US09328106B2
A solution of PyBOP (4.08 g, 7.84 mmol) and 5-((tert-butoxycarbonyl)amino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid (2.20 g, 6.16 mmol) in DCM (50 mL) was stirred at room temperature for 30 min. A solution of 5-chloro-1-methyl-1H-pyrazol-4-amine (737 mg, 5.60 mmol) and DIPEA (1.6 mL, 9.0 mmol) in DCM (50 mL) was then added and the mixture stirred at room temperature for 16 hr. The mixture was diluted with DCM (50 mL) and washed with water (3×50 mL). The organic layer was separated, passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel chromatography (0-100% EtOAc/isohexane) followed by trituration with MeCN gave tert-butyl 4-(5-chloro-1-methyl-1H-pyrazol-4-ylcarbamoyl)-2-(2,6-difluorophenyl)thiazol-5-ylcarbamate as an off-white solid (1.71 g, 65%). 1H NMR (400 MHz, CDCl3) δ 10.32 (s, 1H), 8.73 (s, 1H), 8.06 (s, 1H), 7.42-7.33 (m, 1H), 7.09-7.01 (m, 2H), 3.87 (s, 3H), 1.54 (s, 9H).

reactant | PyBOP | 7.84 mmol, 4.08 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 5-((tert-butoxycarbonyl)amino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | 6.16 mmol, 2.20 g | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
reactant | 5-chloro-1-methyl-1H-pyrazol-4-amine | 5.60 mmol, 737 mg | ClC1=C(C=NN1C)N | C4H6ClN3
reactant | DIPEA | 9.0 mmol, 1.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(5-chloro-1-methyl-1H-pyrazol-4-ylcarbamoyl)-2-(2,6-difluorophenyl)thiazol-5-ylcarbamate | 1.71 g, 65% | ClC1=C(C=NN1C)NC(=O)C=1N=C(SC1NC(OC(C)(C)C)=O)C1=C(C=CC=C1F)F | C19H18ClF2N5O3S
